US05679683
A mixture of 4-chlorobenzofurano[3,2-d]pyrimidine (116mg, 0.57 mmol) and 3-bromoaniline (0.07 mL, 0.6 mmol) is heated at 135° C. under N2 in stirred 2-ethoxyethanol for 3 h. The mixture precipitates upon cooling, and the solid is collected and recrystallized from EtOH to give 4-(3-bromoanilino)benzofurano[3,2-d]pyrimidine (15.7 mg, 8%). 1H NMR (DMSO) δ10.35 (1H, s), 8.73 (1H, s), 8.34 (1H, t, J=1.9 Hz), 8.17 (1H, ddd, J=7.2, 1.2, 0.7 Hz), 7.93 (1H, ddd, J=8.2, 2.2, 1.0 Hz), 7.88 (1H, d, J=8.4 Hz), 7.77 (1H, dt, Jd =1.4 Hz, Jt =7.2 Hz), 7.56 (1H, dt, Jd =0.8 Hz, Jt =8.0 Hz), 7.34 (1H, t, J=8.0 Hz), 7.27 (1H, ddd, J=8.0, 2.0, 1.0 Hz).

reactant | 4-chlorobenzofurano[3,2-d]pyrimidine | 0.57 mmol, 116mg | ClC=1C2=C(N=CN1)C1=C(O2)C=CC=C1 | C10H5ClN2O
reactant | 3-bromoaniline | 0.6 mmol, 0.07 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | 2-ethoxyethanol | C(C)OCCO | C4H10O2
product | 4-(3-bromoanilino)benzofurano[3,2-d]pyrimidine | 15.7 mg, 8% | BrC=1C=C(NC=2C3=C(N=CN2)C2=C(O3)C=CC=C2)C=CC1 | C16H10BrN3O
